US08067419B2
2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid methyl ester (6.6 g, 12.3 mmol) was dissolved in MeOH (150 mL) and 1M NaOHaq. (25 mL) was added. Stirring was continued for 1 h. A solution of 10% citric acid was added till the pH=6, followed by removal of the MeOH under reduced pressure and the addition of NaCl (solid) to saturate the solution. The product was extracted with EtOAc (2×150 mL). The combined organic layers were dried over magnesium sulfate, filtered and the solvent was evaporated under reduced pressure to give 6.55 g (quant. yield) of 2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid. LC-MS: tR=1.16 min; [M+H]+=524.38.

reactant | 2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid methyl ester | 12.3 mmol, 6.6 g | COC([C@H](CC1=CC=CC=C1)N(C(C=CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)CCCCC)=O | C32H34F3NO3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | 150 mL | CO | CH4O
product | 2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid | 6.55 g, quant. yield | C(CCCC)C1=CC=C(CN([C@H](C(=O)O)CC2=CC=CC=C2)C(C=CC2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C31H32F3NO3
